US04092311
Ethyl 3-(6-phenyl-3-pyridazinyl)carbazate
A mixture of 15.0 g. of 6-phenyl-3-chloropyridazine, 16.3 g. of ethyl carbazate, and 250 ml. of n-butanol is refluxed for 3 hours. The solvent is removed under vacuum and the residue triturated with cold water. Filtration gives 18.6 g. of cream colored crystals. Recrystallization gives white crystals, m.p. 158°-160° C.

reactant | 6-phenyl-3-chloropyridazine | C1(=CC=CC=C1)C1=CC=C(N=N1)Cl | C10H7ClN2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | n-butanol | C(CCC)O | C4H10O
product | Ethyl 3-(6-phenyl-3-pyridazinyl)carbazate | C1(=CC=CC=C1)C1=CC=C(N=N1)NNC(=O)OCC | C13H14N4O2
